US06825223B2
WSC (2.3 g, 12 mmols) and HOBt (1.49 g, 15 mmols) were added to a DMF (30 ml) solution of 2,6-diisopropylaniline (1.97 g, 10 mmols) and 4-bromobutyric acid (2.71 g, 15 mmols), and stirred at room temperature for 12 hours. The reaction mixture was extracted with ether. The organic layer was washed with water, 1 N HCl, an aqueous saturated solution of sodium hydrogencarbonate and saturated saline in that order, and dried with anhydrous magnesium sulfate, and the solvent was evaporated. Then, the residue was purified through silica gel column chromatography (developer:hexane/acetone=5/1), and the resulting crystals were recrystallized from ether-hexane to obtain 1.04 g (32%) of 4-bromo-(2,6-diisopropylphenyl)butanamide as colorless needle-like crystals.

reactant | WSC | 12 mmols, 2.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 15 mmols, 1.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2,6-diisopropylaniline | 10 mmols, 1.97 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | 4-bromobutyric acid | 15 mmols, 2.71 g | BrCCCC(=O)O | C4H7BrO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-bromo-(2,6-diisopropylphenyl)butanamide | 1.04 g, 32% | BrCCC(C(=O)N)C1=C(C=CC=C1C(C)C)C(C)C | C16H24BrNO
